Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Tegretol / Depakote
 
Attending: ___.
 
Chief Complaint:
discharged to ___ today, sent right back on arrival due
to DHT in place (instead of PEG tube, which is what they had
expected). 

 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
Mr. ___ is a ___ male with history notable for
posttraumatic temporal lobe epilepsy s/p vagal nerve stimulator
and dementia who was recently admitted with toxic metabolic
encephalopathy likely due to infection (multifocal pneumonia,
with concern for meningitis) complicated by stercoral colitis.
Due to ongoing poor po intake and concern for malnutrition, he
was started on tube feeds via DHT after extensive ___ 
discussions
with family. The plan was made to trial TF's via DHT for 7 days
then reassess and consider transition to hospice depending on
clinical status in 1 week. 

He was discharged to ___ earlier today but unfortunately, 
the
staff at were not expecting an DHT which they do not feel they
have the adequate skilled staffing to manage. They had been 
under
the impression the tube feeds would be given via PEG tube, which
they would have been comfortable managing. As such, the patient
was sent right back to us and given no change in clinical status
per report, he was accepted directly back to the medical ward
bypassing the ED. 

On arrival to the floor, he was without acute complaints though
nonverbal beyond rare yes or no. 

Recent hospital Course: ___
-He presented with toxic metabolic encephalopathy which is
thought to have been triggered by infection, likely pneumonia,
but due to slow response from a mental status standpoint, ID and
neurology were consulted nd he was treated empirically for
non-Listeria, non-HSV meningitis  CSF cultures and HSV PCR were
negative. He Completed empiric 14 day course of vancomycin /
Ceftriaxone after completing a 5 day 
course for HAP. He was noted to have slow gradual improvement in
his mental status with increased eye contact and intermittent 
yes
/ no by the time he was discharged. Neurology felt that given 
his
prior neuro history and poor underlying substrate, it was not
unexpected for him to have such a slow improvement in mental
status following an acute infection. 
-He was also found to have considerable stool burden with
evidence of stercoral colitis on abdominal imaging for which he
was treated with aggressive bowel regimen. 
-Due to ongoing poor po intake and risk for malnutrition given
his ongoing though slowly improving encephalopathy, extensive
goals of care discussions with the family regarding the issue of
nutrition were held with decision to trial tube feeds via DHT 
and
reassess in 7 days. Per previous hospitalist notes, plan was to
revisit the question of hospice (versus PEG tube) after 7 days 
of
nutritional support at SNF. 

ROS: Pertinent positives and negatives as noted in the HPI.  All
other systems were reviewed and are negative. 

 
Past Medical History:
- Temporal lobe epilepsy s/p vagal nerve stimular (VNS); partial 
seizures thought to be due to TBI  
- Depression  
- Posttraumatic stress disorder (has memories of Holocaust)
- Progressive cognitive decline/dementia. Memory difficulty, 
particularly with verbal memory, progressive over multiple 
years.  
- Diabetes, type II.  
- Hypertension.  
- Hyperlipidemia.  
- Severe headaches, left sided, electric shock over the left 
occipital region.
- Bladder tumor, status post transurethral resection ___.  
- Gastroesophageal reflux disease.  
- Lumbosacral spondylosis.  
- Squamous cell carcinoma of skin.  
- Testicular hypofunction.  
- Osteoarthritis.  
- Erectile dysfunction.  
- Peroneal nerve palsy.  
- Digital arthroplasty of left foot, second toe ___
 
Social History:
___
Family History:
Unable to assess from patient due to mental status.
 
Physical Exam:
ADMISSION EXAM: 
VITALS: Temp: 98.3 BP: 117/81 HR: 68 RR: 18 pOx: 92% on RA
GENERAL: Somnolent but awakes to voice, in no apparent distress.
EYES: Anicteric, pupils equally round
ENT: Ears and nose without visible erythema. Oropharynx without
visible lesion, erythema or exudate
CV: Heart regular, no murmur, no S3, no S4.  No JVD.
RESP: Lungs clear to auscultation with good air movement
bilaterally.  Breathing is non-labored
GI: Abdomen soft, non-distended, non-tender to palpation.  Bowel
sounds present.  No HSM
GU: No suprapubic fullness or tenderness to palpation, adult
briefs in place
MSK: Neck supple, moves all extremities, strength grossly
symmetric
SKIN: No obvious rashes or ulcerations noted on cursory skin 
exam
NEURO: somnolent, arouses to voice, nonverbal except for rare 
yes
or no, face symmetric
PSYCH: calm, otherwise unable to assess
 
Pertinent Results:
___ 06:45AM BLOOD WBC-8.0 RBC-3.83* Hgb-11.9* Hct-35.3* 
MCV-92 MCH-31.1 MCHC-33.7 RDW-13.7 RDWSD-45.2 Plt ___
___ 06:45AM BLOOD Glucose-182* UreaN-34* Creat-0.9 Na-137 
K-4.9 Cl-94* HCO3-30 AnGap-13
___ 06:45AM BLOOD Calcium-9.5 Phos-4.1 Mg-2.4
 
Brief Hospital Course:
Mr. ___ is a ___ male with history
notable for  posttraumatic temporal lobe epilepsy s/p vagal 
nerve
stimulator and dementia who was recently admitted with toxic
metabolic encephalopathy likely due to infection  complicated by
stercoral colitis and started on tube feeds for poor po intake. 
After ongoing discussions with the patient's wife, we elected to
pursue comfort-related care and transition to hospice. 

# Toxic Metabolic ___ - medical illness in the 
setting
of underlying dementia. He has significant and severe protein 
calorie malnutrition. We kept his Dobhoff tube in place and 
provided tube feeds.  He had a repeat swallow evaluation that 
showed significant weakness and inability to swallow without 
risk.  We had multiple discussions with the patient's wife with 
social work, hospital medicine, and palliative care. She stated 
that he would not have wanted to be in this state with feeding 
tube.  After this discussion, she elected to have this removed 
and to treat for comfort care.  He was transitioned to
comfort-focused care/hospice on ___ ___.  

#Constipation - PR meds PRN 

#Pain - Morphine SL 

#Seizure disorder - he is unable to take his home antiepleitic
drugs given significant dysphagia.  Added Keppra 500mg IV BID on
___, but changed to Ativan 0.5-1mg SL for anxiety or seizures.  


#DM2 - no longer on finger sticks 

#Comfort-focused care - no vitals, labs, but will treat symptoms
as they arise 

# Contacts/HCP/Surrogate and Communication: Wife ___
# Code Status/ACP: DNR/DNI, CMO

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Acetaminophen 1000 mg PO Q8H:PRN Pain - Mild 
2. Aspirin 81 mg PO DAILY 
3. Atenolol 12.5 mg PO DAILY 
4. Atorvastatin 20 mg PO QPM 
5. BusPIRone 10 mg PO BID 
6. LamoTRIgine 125 mg PO BID 
7. Memantine 10 mg PO BID 
8. Sertraline 50 mg PO DAILY 
9. MetFORMIN (Glucophage) 1000 mg PO BID 
10. Nitroglycerin SL 0.4 mg SL Q5MIN:PRN chest pain 
11. OLANZapine 2.5 mg PO BID 
12. Bisacodyl ___AILY Constipation 
13. Docusate Sodium 100 mg PO BID 
14. Polyethylene Glycol 17 g PO BID 
15. Senna 17.2 mg PO BID 

 
Discharge Medications:
1.  Haloperidol 1 mg IM Q4H:PRN agitation  
2.  LORazepam Oral Solution 0.5-1 mg PO Q1H:PRN anxiety or 
seizure 
RX *lorazepam [Lorazepam Intensol] 2 mg/mL 0.5-1 mg by mouth 
every hour Refills:*0 
3.  Morphine Sulfate (Concentrated Oral Solution) 20 mg/mL 10 mg 
PO Q1H:PRN pain or dyspnea (RR > 20) 
RX *morphine concentrate 100 mg/5 mL (20 mg/mL) 10 mg by mouth 
every hour Refills:*0 
4.  Bisacodyl ___AILY Constipation  

 
Discharge Disposition:
Extended Care
 
Facility:
___ 
 
___ Diagnosis:
Encephalopathy
Malnutrition
Dysphagia 

 
Discharge Condition:
Mental Status: Confused - always.
Level of Consciousness: Lethargic but arousable.
Activity Status: Bedbound.

 
Discharge Instructions:
You were admitted for weakness and progressive confusion.  Your 
care will be focused on comfort where you will receive care with 
hospice.  
 
Followup Instructions:
___